US07371743B2
(a) methyl 4-(3-[1,1-dimethyl-2-hydroxy-ethyl]-ureido)-3-methyl-benzoate
5.70 g (29.8 mmol) methyl 4-isocyanato-3-methyl-benzoate are dissolved in 100 ml THF and a solution of 2.86 ml (30.0 mmol) 2-amino-2-methyl-propan-1-ol in 25 ml THF is added dropwise. The mixture is stirred for 2 hours at ambient temperature and then evaporated down i. vac. The residue is further reacted without any more purification.

reactant | methyl 4-isocyanato-3-methyl-benzoate | 29.8 mmol, 5.70 g | N(=C=O)C1=C(C=C(C(=O)OC)C=C1)C | C10H9NO3
reactant | 2-amino-2-methyl-propan-1-ol | 30.0 mmol, 2.86 ml | NC(CO)(C)C | C4H11NO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | methyl 4-(3-[1,1-dimethyl-2-hydroxy-ethyl]-ureido)-3-methyl-benzoate | CC(CO)(C)NC(NC1=C(C=C(C(=O)OC)C=C1)C)=O | C14H20N2O4
